US04198425
3-Hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)-phenyl]-5-heptanolide
The product obtained by reducing 200 mg of 3-hydroxy-3-methyl-4-bromo-7-[p-(p-fluorobenzyloxy)-phenyl]-5-heptanolide with 400 mg of tri-n-butyltin hydride in 2 ml of anhydrous tetrahydrofuran according to the method described in Example 2 (a), was recrystallized from a mixture of acetone and n-hexane (1:5) to give 99 mg of the desired compound melting at 143.5°-144.5° C.

reactant | 3-hydroxy-3-methyl-4-bromo-7-[p-(p-fluorobenzyloxy)-phenyl]-5-heptanolide | 200 mg | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C | C21H22BrFO4
reactant | tri-n-butyltin hydride | 400 mg | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)-phenyl]-5-heptanolide | 99 mg | OC1(CC(=O)OC(C1)CCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C | C21H23FO4
